US05532237
Step 2: 1-(2,3,-Dichlorobenzoyl)-5-methoxy-2-methyl-3-(2-(morpholin-4-yl)ethyl)-1H-indole
To 5-methoxy-2-methyl-3-(2-(morpholin-4-yl)ethyl)- 1H-indole (311 mg; 1.13 mmol) in 10 mL dry THF at -78° C. was added HMPA (590 μL; 3.39 mmol), then dropwise KHMDS (0.5M in Tol; 2.5 mL; 1.25 mmol). The solution was stirred 30 min at -22° C. then cooled to -78° C. after which 2,3-dichlorobenzoyl chloride (361 mg; 1.72 mmol) was added. The final mixture was allowed to reach r.t. slowly then stirred 1 h. The mixture was poored in saturated NaHCO3 (25 mL), extracted with EtOAc (2×50 mL). The organic phase was washed with brine (50 mL), dried over Na2SO4, filtered, concentrated and flash chromatographed (Silica gel; EtOAc) to yield 503 mg (99%) of the title compound.

reactant | 5-methoxy-2-methyl-3-(2-(morpholin-4-yl)ethyl)- 1H-indole | 1.13 mmol, 311 mg | COC=1C=C2C(=C(NC2=CC1)C)CCN1CCOCC1 | C16H22N2O2
reactant | HMPA | 3.39 mmol, 590 μL | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
reactant | KHMDS | 1.25 mmol, 0.5M, 2.5 mL | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | 2,3-dichlorobenzoyl chloride | 1.72 mmol, 361 mg | ClC1=C(C(=O)Cl)C=CC=C1Cl | C7H3Cl3O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | NaHCO3 | 25 mL | C(=O)(O)[O-].[Na+]
product | 1-(2,3,-Dichlorobenzoyl)-5-methoxy-2-methyl-3-(2-(morpholin-4-yl)ethyl)-1H-indole | 503 mg, 99% | ClC1=C(C(=O)N2C(=C(C3=CC(=CC=C23)OC)CCN2CCOCC2)C)C=CC=C1Cl | C23H24Cl2N2O3
